US06130234
1-(4-(4-Amino-3-fluorophenyl)-3-butynyl)-4-(4-chlorobenzyl)piperidine
To a solution of 4-(4-chlorobenzyl)-1-(but-3-yn-1-yl)piperidine (400 mg, 1.53 mmol) and 2-fluoro-4-iodoaniline (436 mg, 1.84 mmol) in 10 mL of butylamine is added 70 mg of Pd(PPh3)4. The resulting solution is allowed to reflux for 24 hr. The solvent is evaporated in vacuo and the residue is purified by flash chromatography giving the title product as a brown oil (100 mg, 18%): 1H NMR (CDCl3) 1.25 (m, 2 H), 1.46 (m, 1 H), 1.58 (m, 2 H), 1.97 (m, 2 H), 2.56 (m, 6 H), 2.88 (m, 2 H), 3.83 (bs, 2 H), 6.62 (m, 1 H), 6.80-7.24 (m, 6 H).

reactant | 4-(4-chlorobenzyl)-1-(but-3-yn-1-yl)piperidine | 1.53 mmol, 400 mg | ClC1=CC=C(CC2CCN(CC2)CCC#C)C=C1 | C16H20ClN
reactant | 2-fluoro-4-iodoaniline | 1.84 mmol, 436 mg | FC1=C(N)C=CC(=C1)I | C6H5FIN
solvent | butylamine | 10 mL | C(CCC)N | C4H11N
catalyst | Pd(PPh3)4 | 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-(4-Amino-3-fluorophenyl)-3-butynyl)-4-(4-chlorobenzyl)piperidine | 100 mg, 18% | NC1=C(C=C(C=C1)C#CCCN1CCC(CC1)CC1=CC=C(C=C1)Cl)F | C22H24ClFN2
